US07384706B2
In a 2-L (liter) reaction vessel, 1.8 L of the mother liquor obtained in the above-described Example 1 was poured, and agitated at 250 rpm while maintaining the internal temperature at 50±1° C. To this, while supplying an aqueous solution of metal sulfates containing 1.5 mol/L of nickel sulfate, 1.5 mol/L of manganese sulfate and 1.5 mol/L of cobalt sulfate at a flow rate of 0.4 L/hr; and simultaneously supplying a 1.5 mol/L aqueous solution of ammonium sulfate at a flow rate of 0.03 L/hr; an 18 mol/L aqueous solution of sodium hydroxide was continuously supplied so that the pH in the reaction vessel was maintained at 11.05±0.05. The mother liquor in the reaction vessel was periodically extracted, and the slurry was concentrated until the final slurry concentration became about 1000 g/L. The nickel concentration in the periodically extracted mother liquor from the reaction vessel was 22 ppm. After the target slurry concentration had been obtained, the slurry was aged at 50° C. for 5 hours, filtration and water washing were repeated to obtain coagulated particles of a co-precipitated nickel-manganese-cobalt hydroxide.

reactant | nickel sulfate | S(=O)(=O)([O-])[O-].[Ni+2]
reactant | manganese sulfate | 1.5 mol/L | S(=O)(=O)([O-])[O-].[Mn+2]
reactant | cobalt sulfate | 1.5 mol/L | S(=O)(=O)([O-])[O-].[Co+2]
reactant | ammonium sulfate | S(=O)(=O)([O-])[O-].[NH4+].[NH4+]
reactant | sodium hydroxide | [OH-].[Na+]
product | nickel-manganese-cobalt hydroxide | [OH-].[Co+2].[Mn+2].[Ni+2].[OH-].[OH-].[OH-].[OH-].[OH-] | InChI=1S/Co.Mn.Ni.6H2O/h;;;6*1H2/q3*+2;;;;;;/p-6
